US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-ethyl-1-piperazinecarboxamide
As described for example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, ethylisocyanate, and diisopropylethyl amine, are reacted to give the product. LC-MS: 333 (M++1). 1H NMR (DMSO-d6): 61.0 (t, 3H), 2.8–3.0 (m, 4H), 3.0–3.14 (q, 2H), 3.45–3.6 (m, 4H), 6.25 (s, 1H), 6.4–6.55 (s, 2H), 6.55–6.65 (m, 1H), 7.1–7.2 (m, 1H), 7.35–7.4 (m, 1H), 7.7–7.8 (d, 1H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | ethylisocyanate | C(C)N=C=O | C3H5NO
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-ethyl-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC)Cl | C16H20ClN5O
